US07053212B2
Step A: 3-Phenyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-pentyl]-propionamide
To a solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-{1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-pentyl}-amine (0.100 g, 0.22 mmol) and triethylamine (0.092 mL, 0.66 mmol) in 2 mL methylene chloride was added hydrocinnamoyl chloride (0.082 mL, 0.55 mmol), dropwise. The reaction mixture was stirred for 1 hr. at room temperature. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was extracted with an additional 2 mL of methylene chloride. The combined organic layers were concentrated to give the title compound of Step A. MS 585.1 (M+1)+

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-{1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-pentyl}-amine | 0.22 mmol, 0.100 g | N1(CCCC1)CCOC1=CC=C(C=C1)NC(CCCC)C1=CC=C(C=C1)OC1OCCCC1 | C28H40N2O3
reactant | triethylamine | 0.66 mmol, 0.092 mL | C(C)N(CC)CC | C6H15N
reactant | hydrocinnamoyl chloride | 0.55 mmol, 0.082 mL | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-pentyl]-propionamide | C1(=CC=CC=C1)CCC(=O)N(C(CCCC)C1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C37H48N2O4
